US07135466B2
Methyl 2-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenoxy}acetate
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenol (100 mg) was dissolved in dimethylformamide (2 ml) to prepare a solution. Sodium hydride (15 mg) was added to the solution, and the mixture was stirred at 0° C. for 10 min. Methylbromoacetate (0.037 ml) was added thereto, and the mixture was further stirred at 0° C. for 30 min. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with ethyl acetate, followed by washing with saturated brine. The extract was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. Diethyl ether was added to the residue, and the precipitated crystal was collected by filtration and was washed to give the title compound (88 mg, yield 71%).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenol | 100 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)O | C16H14N2O4
reactant | Sodium hydride | 15 mg | [H-].[Na+]
reactant | Methylbromoacetate | 0.037 ml | COC(CBr)=O | C3H5BrO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | Methyl 2-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenoxy}acetate | 88 mg, yield 71% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(OCC(=O)OC)C=C1 | C19H18N2O6
